US05304549
A solution of 1.069 g of 1,2-dibenzyl 1-tert.butyl 1-(3-hydroxypropyl)-4-methyl-1,1,2(R)-pentanetricarboxylate in 10 ml of pyridine at 0° was treated with 0.643 g of acetic anhydride. The mixture was stirred at room temperature for 20 hours and evaporated. The residue was dissolved in ethyl acetate and the solution was washed with 1M hydrochloric acid and with saturated aqueous sodium hydroxide and dried over anhydrous magnesium sulfate. The solvent was removed by evaporation and there were obtained 1.155 g of 1,2-dibenzyl 1-tert.butyl 1-(3-acetoxypropyl)-4-methyl-1,1,2(R)-pentanetricarboxylate in the form of an oil.

reactant | 1,2-dibenzyl 1-tert.butyl 1-(3-hydroxypropyl)-4-methyl-1,1,2(R)-pentanetricarboxylate | 1.069 g | OCCCC([C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)(C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C30H40O7
reactant | acetic anhydride | 0.643 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1,2-dibenzyl 1-tert.butyl 1-(3-acetoxypropyl)-4-methyl-1,1,2(R)-pentanetricarboxylate | 1.155 g | C(C)(=O)OCCCC([C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)(C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C32H42O8
